US06313122B1
C. 5-Fluoro-2-[[1-(4-pyridyl)piperidin-4-ylcarbonyl]amino]-N-(4-methoxyphenyl)benzamide Hydrochloride
Using the procedure described in Example 138, N-(4-methoxyphenyl)-2-amino-5-fluorobenzamide (1.8 mmol) and N-(4-pyridyl)isonipecotoyl chloride (3.6 mmol), purifying with RPHPLC Method A, yielded 500 mg (58%) of the title compound.

reactant | N-(4-methoxyphenyl)-2-amino-5-fluorobenzamide | 1.8 mmol | COC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)F)N)=O | C14H13FN2O2
reactant | N-(4-pyridyl)isonipecotoyl chloride | 3.6 mmol | N1=CC=C(C=C1)N1CCC(C(=O)Cl)CC1 | C11H13ClN2O
product | 5-Fluoro-2-[[1-(4-pyridyl)piperidin-4-ylcarbonyl]amino]-N-(4-methoxyphenyl)benzamide Hydrochloride | 500 mg, 58% | Cl.FC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C1)NC(=O)C1CCN(CC1)C1=CC=NC=C1 | InChI=1S/C25H25FN4O3.ClH/c1-33-21-5-3-19(4-6-21)28-25(32)22-16-18(26)2-7-23(22)29-24(31)17-10-14-30(15-11-17)20-8-12-27-13-9-20;/h2-9,12-13,16-17H,10-11,14-15H2,1H3,(H,28,32)(H,29,31);1H
